US04276294
To the solution of 56 g of 1-(2-p-chlorophenyl-3-benzofuryl)piperazine in 25.2 g of triethylamine and 500 ml of methylene chloride, 31.7 g of pelargonic acid chloride in 300 ml of methylene chloride are added while stirring at 0° for 1/2 hour and stirring is continued for 15 hours. The mixture is washed successively with 1 N-hydrochloric acid, 2 N-aqueous sodium hydroxide and saturated aqueous sodium chloride, dried and evaporated to yield the 1-(2-p-chlorophenyl-3-benzofuryl)-4-pelargonylpiperazine as an oil showing in the 1R-spectrum characteristic bands at 1640 and 812 cm-1.

reactant | 1-(2-p-chlorophenyl-3-benzofuryl)piperazine | 56 g | ClC1=CC=C(C=C1)C=1OC2=C(C1N1CCNCC1)C=CC=C2 | C18H17ClN2O
reactant | pelargonic acid chloride | 31.7 g | C(CCCCCCCC)(=O)Cl | C9H17ClO
solvent | triethylamine | 25.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-p-chlorophenyl-3-benzofuryl)-4-pelargonylpiperazine | ClC1=CC=C(C=C1)C=1OC2=C(C1N1CCN(CC1)C(CCCCCCCC)=O)C=CC=C2 | C27H33ClN2O2
